US05140011
A mixture of 0.63 g (1.39 mmol) of (E,S)-5-[[(4S,5S)-3-(t-butoxycarbonyl)-4-(cyclohexylmethyl)-2,2-dimethyl-5-oxazolidinyl]methyl]-6-methyl-2-heptenoic acid, 0.32 g (1.7 mmol) of EDC, 0.28 g (2 mmol) of HOBT and 20 ml of methylene chloride is cooled to -10°, treated with 0.35 ml (2.7 mmol) of N-ethylmorpholine and 0.26 ml (2 mmol) of 2-phenethylamine in 10 ml of methylene chloride and stirred at -10° for 1.5 hours and at room temperature for 20 hours. Thereafter, the reaction mixture is poured into ice-water, adjusted to pH 3 with a pH 2 buffer of potassium hydrogen sulphate and potassium sulphate and extracted with methylene chloride. The methylene chloride extracts are washed with 2N sodium carbonate solution, dried over magnesium sulphate and evaporated under reduced pressure. Chromatography of the residue on 7.5 g of silica gel yields 0.66 g of t-butyl (4S,5S)-4-(cyclohexylmethyl)-5-[(S)-2-isopropyl-5-(phenethylcarbamoyl)-4-pentenyl]-2,2-dimethyl-3-oxazolidinecarboxylate as a colourless resin, MS: 539 (M-CH3)+.

reactant | (E,S)-5-[[(4S,5S)-3-(t-butoxycarbonyl)-4-(cyclohexylmethyl)-2,2-dimethyl-5-oxazolidinyl]methyl]-6-methyl-2-heptenoic acid | 1.39 mmol, 0.63 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1CC1CCCCC1)C[C@H](C/C=C/C(=O)O)C(C)C)(C)C | C26H45NO5
reactant | EDC | 1.7 mmol, 0.32 g
reactant | HOBT | 2 mmol, 0.28 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 2.7 mmol, 0.35 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 2-phenethylamine | 2 mmol, 0.26 ml | C1=CC=C(C=C1)CCN | C8H11N
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
reactant | potassium sulphate | S(=O)(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | t-butyl (4S,5S)-4-(cyclohexylmethyl)-5-[(S)-2-isopropyl-5-(phenethylcarbamoyl)-4-pentenyl]-2,2-dimethyl-3-oxazolidinecarboxylate | 0.66 g | C1(CCCCC1)C[C@@H]1N(C(O[C@H]1C[C@H](CC=CC(NCCC1=CC=CC=C1)=O)C(C)C)(C)C)C(=O)OC(C)(C)C | C34H54N2O4
